US08084644B2
Phenyl 3-phenoxy-N-phenylacrylimidate (0.30 g) was dissolved to THF (5 ml), sodium salt of methyl mercaptan (0.075 g) was added thereto and stirred for four hours at room temperature. Ethyl acetate (50 ml) was added to the reaction solution, and it was successively washed with water and aqueous saturated of sodium chloride solution, dried over magnesium sulfate (anhydrous), concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain phenyl 3-methylthio-N-phenylacrylimidate (0.20 g) as yellow oil.

reactant | Phenyl 3-phenoxy-N-phenylacrylimidate | 0.30 g | O(C1=CC=CC=C1)C=CC(OC1=CC=CC=C1)=NC1=CC=CC=C1 | C21H17NO2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | sodium | [Na] | Na
reactant | methyl mercaptan | 0.075 g | CS | CH4S
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | phenyl 3-methylthio-N-phenylacrylimidate | 0.20 g | CSC=CC(OC1=CC=CC=C1)=NC1=CC=CC=C1 | C16H15NOS
